US08835411B2
N-[2-[[[(4-Fluoro-3-methylphenyl)methyl]amino]carbonyl]-6,7,8,9-tetrahydro-3-hydroxy-7-(methoxymethyl)-4-oxo-7,10-ethanopyrimido[1,2-a]azepin-10(4H)-yl]-N,N′,N′-trimethyl-ethanediamide
To a solution of N-[2-[[[(4-fluoro-3-methylphenyl)methyl]amino]carbonyl]-6,7,8,9-tetrahydro-3-hydroxy-7-[[[(4-methylphenyl)sulfonyl]oxy]methyl]-4-oxo-7,10-ethanopyrimido[1,2-a]azepin-10(4H)-yl]-N,N′,N′-trimethyl-ethanediamide, Intermediate 28, (100 mg, 0.161 mmol) in CH2Cl2 (10 mL) was added 2,6-di-tert-butyl-4-methylpyridine (166 mg, 0.807 mmol) and trimethyloxonium tetrafluoroborate (48.5 mg, 0.807 mmol) and the mixture was stirred at room temp for 16 h. Another 5 equiv each of methylpyridine and trimethyloxonium tetrafluoroborate were added and the mixture was stirred at room temp for 5 h. The reaction was quenched by addition of 1N KHSO4 (30 mL) and stirred for 10 min and extracted with CH2Cl2 (25 mL×2). The combined extracts were dried, filtered and concentrated. The crude material was then dissolved in CH2Cl2 (1 mL) and treated with TFA (1 mL, 12.98 mmol) at room temp for 16 h. The mixture was concentrated in vacuuo and purified by preparative HPLC to afford the title compound (3.5 mg, 6.12 mmol, 3.79% yield) as a thick film. 1H NMR (500 MHz, CDCl3) δ: 12.15 (1H, br. s.), 9.59 (1H, br. s.), 7.24-7.27 (1H, m), 7.17-7.23 (1H, m), 6.90-6.97 (1H, m), 4.71 (1H, d, J=15.6 Hz), 4.58-4.65 (1H, m), 4.43-4.48 (1H, m), 3.51 (1H, d, J=15.6 Hz), 3.39-3.45 (1H, m), 3.20 (2H, d, J=5.8 Hz), 3.05 (3H, s), 3.02 (3H, s), 3.00 (3H, s), 2.27 (3H, d, J=1.8 Hz), 2.08-2.12 (3H, m), 1.76-1.83 (1H, m), 1.66-1.74 (2H, m), 1.38-1.49 (1H, m). LCMS (M+H)=544.5.

reactant | N-[2-[[[(4-fluoro-3-methylphenyl)methyl]amino]carbonyl]-6,7,8,9-tetrahydro-3-hydroxy-7-[[[(4-methylphenyl)sulfonyl]oxy]methyl]-4-oxo-7,10-ethanopyrimido[1,2-a]azepin-10(4H)-yl]-N,N′,N′-trimethyl-ethanediamide | FC1=C(C=C(C=C1)CNC(=O)C=1N=C2N(CC3(CCC2(CC3)N(C(C(=O)N(C)C)=O)C)COS(=O)(=O)C3=CC=C(C=C3)C)C(C1O)=O)C | C33H38FN5O8S
reactant | 2,6-di-tert-butyl-4-methylpyridine | 0.807 mmol, 166 mg | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
reactant | trimethyloxonium tetrafluoroborate | 0.807 mmol, 48.5 mg | F[B-](F)(F)F.C[O+](C)C
reactant | methylpyridine | 5 equiv | CC1=NC=CC=C1 | C6H7N
reactant | TFA | 12.98 mmol, 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-[2-[[[(4-Fluoro-3-methylphenyl)methyl]amino]carbonyl]-6,7,8,9-tetrahydro-3-hydroxy-7-(methoxymethyl)-4-oxo-7,10-ethanopyrimido[1,2-a]azepin-10(4H)-yl]-N,N′,N′-trimethyl-ethanediamide | 6.12 mmol, 3.5 mg, 3.79% yield | FC1=C(C=C(C=C1)CNC(=O)C=1N=C2N(CC3(CCC2(CC3)N(C(C(=O)N(C)C)=O)C)COC)C(C1O)=O)C | C27H34FN5O6
